US07855206B2
A mixture of 3-chloro-2-(chloromethyl)prop-1-ene (1.0 g, 8 mmol) and sodium iodide (6.6 g, 44 mmol) in acetone (60 mL) was stirred at room temperature for 20 hours, evaporated under reduced pressure and dissolved in dichloromethane (150 mL) and water (50 mL). The organic layer was dried over sodium sulfate, filtered and evaporated to yield 3-iodo-2-(iodomethyl)prop-1-ene as a reddish oil (2.45 g). N,N-diisopropylethylamine (0.20 mL) was added to a solution of 2-nitro-1-(2,4,5-trifluorophenyl)ethanone (110 mg, 0.5 mmol) in N,N-dimethylformamide (3 mL) and 3-iodo-2-(iodomethyl)prop-1-ene (170 mg, 0.55 mmol) and the mixture was heated at 60° C. for 2.5 hours, evaporated and purified by chromatography on a Biotage Horizon® system (silica, gradient 0-30% dichloromethane in hexane) to yield 3-methylene-5-nitro-6-(2,4,5-trifluorophenyl)-3,4-dihydro-2H-pyran.

reactant | N,N-diisopropylethylamine | 0.20 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-nitro-1-(2,4,5-trifluorophenyl)ethanone | 0.5 mmol, 110 mg | [N+](=O)([O-])CC(=O)C1=C(C=C(C(=C1)F)F)F | C8H4F3NO3
reactant | 3-iodo-2-(iodomethyl)prop-1-ene | 0.55 mmol, 170 mg | ICC(=C)CI | C4H6I2
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 3-methylene-5-nitro-6-(2,4,5-trifluorophenyl)-3,4-dihydro-2H-pyran | C=C1COC(=C(C1)[N+](=O)[O-])C1=C(C=C(C(=C1)F)F)F | C12H8F3NO3
